US04892947
4-(cis-1-heptenyl)benzylamine hydrochloride
Into a mixture of 617 mg of sodium borohydride and 100 ml of tetrahydrofuran, a mixed solution of 1.86 g of trifluoroacetic acid and 3 ml of tetrahydrofuran, was dropwise added under stirring and cooling with ice. After the completion of the dropwise addition, the ice bath was removed, and the reaction mixture was stirred for one hour. Then, a solution obtained by dissolving 3.09 g of 4-(cis-1-heptenyl)benzonitrile obtained by sujbecting 4-cyanobenzaldehyde and a Wittig reagent formed by treating triphenyl-n-hexylphosphonium bromide in the presence of n-butyl lithium and hexamethyl phosphoric triamide, to a condenation reaction in tetrahydrofuran, in 3 ml of tetrahydrofuran, was dropwise added to the reaction mixture, and stirred at room temperature for 3 hours. Ice pieces were added to decompose the excess reducing agent. Then, the solvent was distilled off from the reaction mixture, and the residue was extracted with benzene. The extract was washed with water and a saturated sodium chloride aqueous solution and dried over sodium sulfate, and then the solvent was distilled off to obtain a pale yellow oily substance. The product was dissolved in 80 ml of ethyl ether, and 3 ml of a 1,4-dioxane solution of 6N HCl was added under cooling with ice. The precipitated solid was collected by filtration and washed with ethyl ether to obtain 3.47 g of the above identified compound as a pale yellow solid substance. The NMR spectrum of the free amine is as follows.

reactant | triphenyl-n-hexylphosphonium bromide | [Br-].C1(=CC=CC=C1)[P+](CCCCCC)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexamethyl phosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | HCl | 6N | Cl | ClH
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 4-(cis-1-heptenyl)benzylamine hydrochloride | Cl.C(=C/CCCCC)/C1=CC=C(CN)C=C1 | InChI=1S/C14H21N.ClH/c1-2-3-4-5-6-7-13-8-10-14(12-15)11-9-13;/h6-11H,2-5,12,15H2,1H3;1H/b7-6-;
